US09359338B2
Step 1: Synthesis of 4-fluoro-1-(3-nitro-5-(trifluoromethyl)phenyl)piperidine
Mix 1-bromo-3-nitro-5-(trifluoromethyl)benzene (700 mg, 2.59 mmol), 4-fluoropiperidine hydrochloride (544 mg, 3.89 mmol), cesium carbonate (2.5 g, 7.77 mmol), (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene (BINAP, 48 mg, 0.077 mmol), tris(dibenzylideneacetone)dipalladium [Pd2(dba)3, 47 mg, 0.052 mmol] in dioxane (10 mL), Stir the mixture under nitrogen atmosphere at 100° C. for 16 hrs. Cool the reaction mixture to room temperature, dilute it with water (10 mL), extract with ethyl acetate (10 mL×2), combine the organic layers, wash with brine (15 mL) and dry over anhydrous sodium sulfate. Concentrate the filtrate to get the crude product. Purify by flash chromatography (silica gel, 100% PE) to yield the target compound (480 mg, 63%).

reactant | 1-bromo-3-nitro-5-(trifluoromethyl)benzene | 2.59 mmol, 700 mg | BrC1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C7H3BrF3NO2
reactant | 4-fluoropiperidine hydrochloride | 3.89 mmol, 544 mg | Cl.FC1CCNCC1
reactant | cesium carbonate | 7.77 mmol, 2.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.052 mmol, 47 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene | 0.077 mmol, 48 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
product | 4-fluoro-1-(3-nitro-5-(trifluoromethyl)phenyl)piperidine | 480 mg, 63% | FC1CCN(CC1)C1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C12H12F4N2O2
